US08536214B2
a) N-(5-bromo-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
At 0° C. and under protective atmosphere, a solution of 2-propanesulfonyl chloride (11.87 mL, 121 mmol) in DCM (121 mL) was added gradually to a solution of 5-bromo-2,3-dihydro-1H-inden-1-amine (12.8 g, 60.4 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (4.83 mL, 32.1 mmol) in dichloromethane (300 mL). The reaction was stirred at rt overnight. The reaction mixture was washed with 1N KHSO4 (1×) and sat NaHCO3 (2×) before being dried on Na2SO4 and solvent evaporated in vacuo to afford a green oil. Purification by column chromatography (25% EtOAc in hept) afforded the title compound as a white solid (6.0 g, 18.9 mmol, 31%). MS (ESI): m/z [M−H]− 317.0.

reactant | 2-propanesulfonyl chloride | 121 mmol, 11.87 mL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | 5-bromo-2,3-dihydro-1H-inden-1-amine | 60.4 mmol, 12.8 g | BrC=1C=C2CCC(C2=CC1)N | C9H10BrN
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 32.1 mmol, 4.83 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DCM | 121 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-(5-bromo-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 18.9 mmol, 6.0 g, 31% | BrC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C12H16BrNO2S
